US08735440B2
Step 1: 9H-carbazole-3-carbonitrile
To a solution of 3-bromo-9H-carbazole (4.00 g, 16.3 mmol, 1 equiv) in N-Methyl-2-pyrrolidinone (40 mL) was added copper(I) cyanide (1.6012 g, 17.9 mmol, 1.1 equiv). The mixture was sealed and heated at 200° C. until TLC showed no starting material. The reaction solution was cooled and 60 mL of water was added. The off-white precipitate was filtered off and washed with EtOAc (3×20 mL). This filtrate was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with water (20 mL) and brine (20 mL), and then dried over Na2SO4. The solvent was removed under reduced pressure to afford red-brown oil. Methanol was added to the crude oil to afford 0.8251 g off-white precipitate as pure product. The mother liquid from the methanol precipitation was concentrated and purified by chromatography (25% EtOAc/Hex) to provide 0.28 g off-white solid. The combined yield was 35.5%.

reactant | 3-bromo-9H-carbazole | 16.3 mmol, 4.00 g, 1 equiv | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | copper(I) cyanide | 17.9 mmol, 1.6012 g, 1.1 equiv | [Cu]C#N
reactant | water | 60 mL | O | H2O
reactant | Methanol | CO | CH4O
solvent | N-Methyl-2-pyrrolidinone | 40 mL | CN1C(CCC1)=O | C5H9NO
product | 9H-carbazole-3-carbonitrile | 0.8251 g | C1=CC(=CC=2C3=CC=CC=C3NC12)C#N | C13H8N2
